US07851626B2
[(4S,5R)-2-(4-Chloro-2-ethoxy-5-methanesulfonyl-phenyl)-4,5-bis-(4-chlorophenyl)-4,5-dimethyl-4,5-dihydroimidazol-1-yl]-[4-(3-methanesulfonylpropyl)-piperazin-1-yl]methanone
In a manner analogous to the method described in example 5, 2-(4-chloro-2-ethoxy-5-methanesulfonylphenyl)-4,5-bis-(4-chlorophenyl)-4,5-dimethyl-4,5-dihydroimidazole-1-carbonyl chloride was reacted with 1-(3-methanesulfonyl-propyl)-piperazine dihydrochloride (prepared as described in Fotouhi, N. et al. WO 2005110996) to give the title compound as a racemic mixture. The enantiomers were then separated by supercritical fluid chromatography (Berger Instrument Multi-Gram II, Daicel ChiralPak OD-H 3×25 cm, 35° C. at 100 bar, eluting with 30% of 1:1 ethanol/acetonitrile in carbon dioxide). HR-MS (ES, m/z) calculated for C35H42N4O6S2Cl3 [(M+H)+] 783.1606, observed 783.1596

reactant | 2-(4-chloro-2-ethoxy-5-methanesulfonylphenyl)-4,5-bis-(4-chlorophenyl)-4,5-dimethyl-4,5-dihydroimidazole-1-carbonyl chloride | ClC1=CC(=C(C=C1S(=O)(=O)C)C=1N(C(C(N1)(C)C1=CC=C(C=C1)Cl)(C)C1=CC=C(C=C1)Cl)C(=O)Cl)OCC | C27H24Cl4N2O4S
reactant | 1-(3-methanesulfonyl-propyl)-piperazine dihydrochloride | Cl.Cl.CS(=O)(=O)CCCN1CCNCC1
product | [(4S,5R)-2-(4-Chloro-2-ethoxy-5-methanesulfonyl-phenyl)-4,5-bis-(4-chlorophenyl)-4,5-dimethyl-4,5-dihydroimidazol-1-yl]-[4-(3-methanesulfonylpropyl)-piperazin-1-yl]methanone | ClC1=CC(=C(C=C1S(=O)(=O)C)C=1N([C@]([C@](N1)(C)C1=CC=C(C=C1)Cl)(C)C1=CC=C(C=C1)Cl)C(=O)N1CCN(CC1)CCCS(=O)(=O)C)OCC | C35H41Cl3N4O6S2
